US05153194
To a solution of 2.5 g of 9-bromo-2-(4-chlorophenyl)-2,4,4a,5,6,7-hexahydro-3H-thieno[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one in 40 ml of acetic acid is added a solution of 1.1 g of bromine in 5 ml of acetic acid with stirring at 40° C. over a period of 10 minutes. The mixture is stirred at 40°-50° C. for 20 minutes and poured into ice-cold water. The precipitated crystals are collected by filtration, washed with water, dissolved in chloroform and subjected to column chromatography on silica gel. The crystals obtained from the fraction which has been eluted with chloroform are recrystallized from a mixed solvent of ethanol and chloroform to give 1.5 g of 9-bromo-2-(4-chlorophenyl)-2,5,6,7-tetrahydro-3H-thieno[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one as white crystals, melting at 143°-144° C.

reactant | 9-bromo-2-(4-chlorophenyl)-2,4,4a,5,6,7-hexahydro-3H-thieno[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 2.5 g | BrC1=CC2=C(CCCC3C2=NN(C(C3)=O)C3=CC=C(C=C3)Cl)S1 | C17H14BrClN2OS
reactant | bromine | 1.1 g | BrBr | Br2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 9-bromo-2-(4-chlorophenyl)-2,5,6,7-tetrahydro-3H-thieno[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 1.5 g | BrC1=CC2=C(CCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)Cl)S1 | C17H12BrClN2OS
